US05998437
To 2.3 g of lithium aluminum hydride was added 100 ml of tetrahydrofuran, under stirring condition, and 6 g of 5-cyano-1-[3-(2-isopropyl-imidazol-1-yl)propyl]indole was gradually added thereto. The mixture was refluxed for 4 hours, then after confirmation of that the reaction was finished, under cooling at 0° C., 2.3 ml of water, 2.3 ml of 10% aqueous solution of potassium hydroxide and 7 ml of water were gradually added thereto. The reaction mixture was diluted with ethyl acetate, then filtrated with Celite, and the solvent was removed by distillation, 5.3 g of 5-aminomethyl-1-[3-(2-isopropylimidazol-1-yl)propyl]indole was obtained in the form of yellow oily product.

reactant | lithium aluminum hydride | 2.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 5-cyano-1-[3-(2-isopropyl-imidazol-1-yl)propyl]indole | 6 g | C(#N)C=1C=C2C=CN(C2=CC1)CCCN1C(=NC=C1)C(C)C | C18H20N4
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 7 ml | O | H2O
solvent | water | 2.3 ml | O | H2O
product | 5-aminomethyl-1-[3-(2-isopropylimidazol-1-yl)propyl]indole | 5.3 g | NCC=1C=C2C=CN(C2=CC1)CCCN1C(=NC=C1)C(C)C | C18H24N4
